US08097617B2
Step 20.3: 6-(2,4-Dichloro-phenyl)-3-(6-fluoro-pyridin-3-yl)-8-isobutoxy-imidazo[1,2-a]pyridine-7-carbonitrile.
In a sealed tube, a mixture of 3-bromo-6-(2,4-dichloro-phenyl)-8-isobutoxy-imidazo[1,2-a]pyridine-7-carbonitrile (115 mg, 0.25 mmol), 2-fluoro-5-pyridine-boronic acid (38.4 mg, 0.27 mmol), PdCl2(PPh3)2 (8.7 mg, 0.01 mmol) and Na2CO3 (2.0 M solution in water, 0.43 mL) in DME (1 mL) was heated at 150° C. for 17 min in a microwave oven. The reaction mixture was cooled to RT, diluted in AcOEt (20 mL) and washed with water (2×10 mL). The organic layer was dried over Na2SO4, filtered, and evaporated to dryness. The remaining residue was purified by Combi-Flash Companion™ (Isco Inc.) column chromatography (SiO2; gradient elution, hexane/TBME 95:5→7:3) to yield the title compound (64 mg, 0.14 mmol, 56%) as a white solid. MS: 455 [M+1]+; HPLC: AtRet=3.14; TLC: RF 0.34 (hexane/TBME 1:1).

reactant | 3-bromo-6-(2,4-dichloro-phenyl)-8-isobutoxy-imidazo[1,2-a]pyridine-7-carbonitrile | 0.25 mmol, 115 mg | BrC1=CN=C2N1C=C(C(=C2OCC(C)C)C#N)C2=C(C=C(C=C2)Cl)Cl | C18H14BrCl2N3O
reactant | 2-fluoro-5-pyridine-boronic acid | 0.27 mmol, 38.4 mg | FC1=NC=C(C=C1)B(O)O | C5H5BFNO2
reactant | Na2CO3 | 2.0 M, 0.43 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 1 mL | COCCOC | C4H10O2
solvent | AcOEt | 20 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.01 mmol, 8.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-(2,4-Dichloro-phenyl)-3-(6-fluoro-pyridin-3-yl)-8-isobutoxy-imidazo[1,2-a]pyridine-7-carbonitrile | 0.14 mmol, 64 mg, 56% | ClC1=C(C=CC(=C1)Cl)C=1C(=C(C=2N(C1)C(=CN2)C=2C=NC(=CC2)F)OCC(C)C)C#N | C23H17Cl2FN4O
